US07820848B2
20.0 g acetic acid 3-acetoxy-5-(1-ethoxycarbonyloxy-ethyl)-phenyl ester is dissolved in 92.5 ml toluene and the mixture is continuously conducted through a glass tube filled with ceramic packing at 475° C. After cooling the reaction mixture to room temperature the solvent is evaporated in vacuum and 12.8 g (90%) pure 3,5-diacetoxystyrene is isolated.

reactant | acetic acid 3-acetoxy-5-(1-ethoxycarbonyloxy-ethyl)-phenyl ester | 20.0 g | C(C)(=O)OC=1C=C(C=C(C1)C(C)OC(=O)OCC)OC(C)=O | C15H18O7
solvent | toluene | 92.5 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-diacetoxystyrene | 12.8 g, 90% | C(C)(=O)OC=1C=C(C=C)C=C(C1)OC(C)=O | C12H12O4
